* Subcircuit 74_1030
.subckt 74_1030 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ 
* c:\users\shanthipriya\desktop\madeeasy\fossee\esim\library\subcircuitlibrary\74_1030\74_1030.cir
* u2  net-_u1-pad1_ net-_u1-pad2_ net-_u2-pad3_ d_nand
* u3  net-_u1-pad3_ net-_u1-pad4_ net-_u3-pad3_ d_nand
* u4  net-_u1-pad5_ net-_u1-pad6_ net-_u4-pad3_ d_nand
* u5  net-_u1-pad7_ net-_u1-pad8_ net-_u5-pad3_ d_nand
* u6  net-_u2-pad3_ net-_u3-pad3_ net-_u6-pad3_ d_nand
* u7  net-_u4-pad3_ net-_u5-pad3_ net-_u7-pad3_ d_nand
* u8  net-_u6-pad3_ net-_u7-pad3_ net-_u1-pad9_ d_nand
a1 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u2-pad3_ u2
a2 [net-_u1-pad3_ net-_u1-pad4_ ] net-_u3-pad3_ u3
a3 [net-_u1-pad5_ net-_u1-pad6_ ] net-_u4-pad3_ u4
a4 [net-_u1-pad7_ net-_u1-pad8_ ] net-_u5-pad3_ u5
a5 [net-_u2-pad3_ net-_u3-pad3_ ] net-_u6-pad3_ u6
a6 [net-_u4-pad3_ net-_u5-pad3_ ] net-_u7-pad3_ u7
a7 [net-_u6-pad3_ net-_u7-pad3_ ] net-_u1-pad9_ u8
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u2 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u3 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u4 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u5 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u6 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u7 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u8 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74_1030